US08623889B2
Step 2: 7-(4-methyl-6-(methylthio)pyridin-3-yl)isoquinolin-3-amine
A mixture of 7-(6-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine (389 mg; 1.536 mmol) and sodium thiomethoxide (344 mg; 4.66253 mmol) in N,N-dimethylacetamide (3.0 mL; 32 mmol) was subjected to microwave irradiation at 150° C. for 30 minutes to produce a mixture of the desired product and the demethylated thiol product. To the reaction mixture was added a 10 mol/L solution sodium hydroxide in water (1.5 mL; 15 mmol) followed by iodomethane (0.10 mL; 1.6 mmol). The reaction mixture was stirred at room temperature for 4 hours, and then additional iodomethane (0.05 mL; 0.8 mmol) was added. After an additional 4 hours, the reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and evaporated in vacuo to yield 419.9 mg of the title compound, which was carried forward without purification. LCMS (ESI): M+H=282.2; 1H NMR (400 MHz, DMSO) δ 8.85 (s, 1H), 8.30 (s, 1H), 7.79 (s, 1H), 7.59 (d, J=8.6 Hz, 1H), 7.47 (d, J=8.6 Hz, 1H), 7.27 (s, 1H), 6.66 (s, 1H), 5.98 (s, 2H), 2.54 (s, 3H), 2.27 (s, 3H).

reactant | 7-(6-fluoro-4-methylpyridin-3-yl)isoquinolin-3-amine | 1.536 mmol, 389 mg | FC1=CC(=C(C=N1)C1=CC=C2C=C(N=CC2=C1)N)C | C15H12FN3
reactant | sodium thiomethoxide | 4.66253 mmol, 344 mg | C[S-].[Na+]
reactant | N,N-dimethylacetamide | 32 mmol, 3.0 mL | CN(C(C)=O)C | C4H9NO
product | 7-(4-methyl-6-(methylthio)pyridin-3-yl)isoquinolin-3-amine | CC1=C(C=NC(=C1)SC)C1=CC=C2C=C(N=CC2=C1)N | C16H15N3S
